US04150139
The reaction of 11-methyl-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine with sodium methoxide yielded 3-methoxy-11-methyl-11H-s-triazolo[3,4-b][3] benzazepine. Colorless prisms (as recrystallized from ether), melting point: 101°-102° C.

reactant | 11-methyl-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine | CC1C=2N(C=CC3=C1C=CC=C3)C(=NN2)S(=O)(=O)C | C13H13N3O2S
reactant | sodium methoxide | C[O-].[Na+]
product | 3-methoxy-11-methyl-11H-s-triazolo[3,4-b][3] benzazepine | COC1=NN=C2C(C3=C(C=CN21)C=CC=C3)C | C13H13N3O
